US07589206B2
(f) 7-(3-Chloro-phenylamino)-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide
A mixture of 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide (20 mg), 3-chloroaniline (15 ul), and methanesulfonic acid (9 ul) in 1,4-dioxane (0.5 ml) was heated under microwave conditions at 180° C. for 30 minutes. The solid mass obtained was dissolved in methanol, transferred to a round bottom flask and evaporated. The residue was partitioned between ethyl acetate and 5% sodium hydrogen carbonate solution whereby the title compound remained as a solid at the interface. The solid was filtered off, and washed with 5% sodium hydrogen carbonate solution, water and diethyl ether, then sucked dry and dried at 60° C. under vacuum to afford the title compound (17 mg).

reactant | 7-chloro-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 20 mg | O1CCC(CC1)CNC(=O)C=1C2=C(C(=NC1)Cl)NC=C2 | C14H16ClN3O2
reactant | 3-chloroaniline | 15 ul | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | methanesulfonic acid | 9 ul | CS(=O)(=O)O | CH4O3S
solvent | 1,4-dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | methanol | CO | CH4O
product | 7-(3-Chloro-phenylamino)-1H-pyrrolo[2,3-c]pyridine-4-carboxylic acid (tetrahydro-pyran-4-ylmethyl)-amide | 17 mg | O1CCC(CC1)CNC(=O)C=1C2=C(C(=NC1)NC1=CC(=CC=C1)Cl)NC=C2 | C20H21ClN4O2
